US07781436B2
[1-(2-Amino-ethyl)-6-chloro-1H-indol-3-yl]-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone
To a solution of (6-chloro-1H-indol-3-yl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone in dry DMF under argon at 0° C. was added (1.1 eq) NaH. The reaction mixture was stirred for 1 h at 0° C. 2,2-Dioxo-2λ6-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester (1.1 eq) (described in WO 2003037327) was added, and the reaction mixture was stirred for 2 h at RT. After evaporation of DMF, redissolution in dioxan, addition of 5 eq. of HCl (4.0M solution in dioxane) and a few drops of water, the reaction mixture was stirred for 2 h at 50° C.; LC-MS showed complete conversion to the crude product.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C19H17ClFN3O
reactant | NaH | 1.1 eq | [H-].[Na+]
reactant | 2,2-Dioxo-2λ6-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 1.1 eq | C(C)(C)(C)OC(=O)N1S(OCC1)(=O)=O | C7H13NO5S
reactant | HCl | 4.0M, 5 eq. | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | water | a few drops | O | H2O
product | [1-(2-Amino-ethyl)-6-chloro-1H-indol-3-yl]-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | NCCN1C=C(C2=CC=C(C=C12)Cl)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C21H22ClFN4O
